US04460596
A mixture of 20.9 g of 5-(3-thienyl)-4-methoxycarbonyloxazole and 100 ml of 6N hydrochloric acid is stirred at 80° to 90° C. for 4 hours. Then, the reaction mixture is condensed under reduced pressure, and the residue is crystallized with acetone. 16.2 g of N-[(3-thienylcarbonyl)methyl]amine hydrochloride are thereby obtained.

reactant | 5-(3-thienyl)-4-methoxycarbonyloxazole | 20.9 g | S1C=C(C=C1)C1=C(N=CO1)C(=O)OC | C9H7NO3S
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
product | N-[(3-thienylcarbonyl)methyl]amine hydrochloride | 16.2 g, Yield: 91% | Cl.S1C=C(C=C1)C(=O)CN | InChI=1S/C6H7NOS.ClH/c7-3-6(8)5-1-2-9-4-5;/h1-2,4H,3,7H2;1H
